US09371319B2
Preparation 163: 4-(1,2-dimethyl-1H-imidazol-5-yl)aniline
Tetrakis(triphenylphosphine)palladium (0.053 g, 0.046 mmol) was added to a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.1 g, 0.456 mmol), 5-bromo-1,2-dimethyl-1H-imidazole (0.088 g, 0.502 mmol) and cesium fluoride (0.208 g, 1.369 mmol) in DME/MeOH (2/1, 2.9 mL). The reaction mixture was heated for 10 minutes at 150° C. under microwave irradiation. The reaction was diluted with EtOAc and quenched with water. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude mixture was purified using Biotage silica gel column chromatography eluting with 1 to 5% MeOH/aq. NH3 (10/1) in DCM followed by filtration through a SCX-2 column to afford the title product as a white solid (48 mg, 56%). 1H NMR (500 MHz, CDCl3): δ 2.42 (s, 3H), 3.46 (s, 3H), 3.81 (br s, 2H), 6.71-6.74 (m, 1H), 6.85 (s, 1H), 7.12-7.14 (m, 1H).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.456 mmol, 0.1 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | 5-bromo-1,2-dimethyl-1H-imidazole | 0.502 mmol, 0.088 g | BrC1=CN=C(N1C)C | C5H7BrN2
reactant | cesium fluoride | 1.369 mmol, 0.208 g | [F-].[Cs+]
solvent | DME MeOH | 2.9 mL | COCCOC.CO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.046 mmol, 0.053 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1,2-dimethyl-1H-imidazol-5-yl)aniline | 48 mg, 56% | CN1C(=NC=C1C1=CC=C(N)C=C1)C | C11H13N3
